US07737166B2
7-Fluoro-6-(3-hydroxyphenyl)-2-isopropyl-5-methyl-1,3-benzoxazole-4-carbonitrile (I-57)
A mixture of N-(5-cyano-2-fluoro-3,3′-dihydroxy-6-methylbiphenyl-4-yl)isobutylamide (I-56) (60 mg, 0.183 mmol), p-toluenesulfonic acid monohydrate (10.4 mg, 0.0548 mmol) and toluene (5 ml) was heated under reflux for 2.5 hours. After cooling, this was diluted with ethyl acetate, successively washed with 1 N hydrochloric acid and saturated brine, dried on anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure to obtain a pale brown residue. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to obtain the entitled compound (30.9 mg, 54%) as a pale yellow solid.

reactant | N-(5-cyano-2-fluoro-3,3′-dihydroxy-6-methylbiphenyl-4-yl)isobutylamide | 0.183 mmol, 60 mg | C(#N)C=1C(=C(C(=C(C1C)C1=CC(=CC=C1)O)F)O)[N-]CC(C)C
reactant | p-toluenesulfonic acid monohydrate | 0.0548 mmol, 10.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-6-(3-hydroxyphenyl)-2-isopropyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 30.9 mg, 54% | FC=1C(=C(C(=C2N=C(OC21)C(C)C)C#N)C)C2=CC(=CC=C2)O | C18H15FN2O2
